US07977358B2
D] [3,5-Dimethyl-1-(4-methyl-3-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone
In analogy to the procedure described in Example 18], 3,5-dimethyl-1-(4-methyl-3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid and 4-pyrrolidine-1-yl-piperidine gave the title compound in 77% yield as orange foam. MS: 435.5 (MH+).

reactant | 3,5-dimethyl-1-(4-methyl-3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid | CC1=NN(C(=C1C(=O)O)C)C1=CC(=C(C=C1)C)C(F)(F)F | C14H13F3N2O2
reactant | 4-pyrrolidine-1-yl-piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
product | [3,5-Dimethyl-1-(4-methyl-3-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | 77% yield | CC1=NN(C(=C1C(=O)N1CCC(CC1)N1CCCC1)C)C1=CC(=C(C=C1)C)C(F)(F)F | C23H29F3N4O
